US04878940
Through a stirred mixture of 3 parts of 5-(chloromethyl)-1-(1-phenylethyl)-1H-imidazole monohydrochloride and 45 parts of N,N-dimethylformamide were bubbled 3 equivalents of gaseous methanamine at room temperature during a 1 hour-period: exothermic reaction, the temperature rose to 50° C. The reaction mixture was taken up in trichloromethane and methanol, previously saturated with ammonia, was added. The formed precipitate was filtered off and the filtrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off, washed with 2-propanol, dried and crystallized from 2-propanol, yielding 1.6 parts (44.5%) of (±)-N-methyl-1-(1-phenylethyl)-1H-imidazole-5-methanamine dihydrochloride monohydrate; mp. 109° C. (compound 8.38).

reactant | 5-(chloromethyl)-1-(1-phenylethyl)-1H-imidazole monohydrochloride | Cl.ClCC1=CN=CN1C(C)C1=CC=CC=C1
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | methanamine | 3 equivalents | CN | CH5N
reactant | ammonia | N | H3N
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | (±)-N-methyl-1-(1-phenylethyl)-1H-imidazole-5-methanamine dihydrochloride monohydrate | 44.5% | O.Cl.Cl.CNCC1=CN=CN1C(C)C1=CC=CC=C1 | InChI=1S/C13H17N3.2ClH.H2O/c1-11(12-6-4-3-5-7-12)16-10-15-9-13(16)8-14-2;;;/h3-7,9-11,14H,8H2,1-2H3;2*1H;1H2
